US07247645B2
1) Synthesis of 1,1-diphenyl-1,4-butanediol:
60 ml (120 mmol) of 2 M solution of phenyl magnesium bromide in THF was added dropwise to 4.33 g (50.3 mmol) of γ-butyrolactone in 60 ml of THF for the duration of 50 minutes. After stirring at room temperature overnight, a saturated aqueous ammonium chloride solution and then 2 N hydrochloric acid were added dropwise to the reaction mixture. After the extraction with ethyl acetate, the organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to obtain the title compound.

reactant | phenyl magnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | γ-butyrolactone | 50.3 mmol, 4.33 g | C1(CCCO1)=O | C4H6O2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 1,1-diphenyl-1,4-butanediol | C1(=CC=CC=C1)C(CCCO)(O)C1=CC=CC=C1 | C16H18O2
